US05654299
g. 1-Benzyloxycarbonyl-1,2,3,6-tetrahydropyridine
A solution of 1,2,3,6-tetrahydropyridine (5.0 g) in dichloromethane (200 mL) was cooled to 0° C. and treated with triethylamine (10.1 mL) followed by benzylchloroformate (10.3 mL). The reaction mixture was stirred for 1 hour at 0° C., diluted with dichloromethane, washed (dilute hydrochloric acid, sodium bicarbonate solution), dried and evaporated. The crude product was distilled to give the N-protected derivative (11.01 g); bp 160°-165° C. (26.7 Pa); NMR (CDCl3): 2.15 (broad, 2), 3.5 (t,2, J=6), 3.96 (m, 2), 5.15 (s, 2), 5.8 (2 broad peaks, 2), 7.4(m, 5); MS: m/z=218(M+1).

reactant | 1,2,3,6-tetrahydropyridine | 5.0 g | N1CCC=CC1 | C5H9N
reactant | triethylamine | 10.1 mL | C(C)N(CC)CC | C6H15N
reactant | benzylchloroformate | 10.3 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-Benzyloxycarbonyl-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)OC(=O)N1CCC=CC1 | C13H15NO2
